US07968591B2
Synthesis of 4-methyl-3-phenyl-1H-pyrrole-2-carboxylic acid ethyl ester
1,5,7-Triazabicyclo[4.4.0]dec-5-ene on polystyrene (4.7 g, 2.6 mmol/g, 12.2 mmol) was added to a reaction mixture of trans-β-methyl-β-nitrostyrene (997 mg, 6.11 mmol) and isocyanoacetic acid ethyl ester (691 mg, 6.11 mmol) in isopropanol (5 mL) and THF (5 mL) and the reaction mixture was stirred overnight at RT under nitrogen as protective gas. The reaction mixture was filtered out and the residue washed with isopropanol and THF. The desired product 4-methyl-3-phenyl-1H-pyrrole-2-carboxylic acid ethyl ester (1.25 g, 89% of theoretical) was obtained.

reactant | 1,5,7-Triazabicyclo[4.4.0]dec-5-ene | N12CCCN=C2NCCC1 | C7H13N3
reactant | trans-β-methyl-β-nitrostyrene | 6.11 mmol, 997 mg | C/C(=C\C1=CC=CC=C1)/[N+](=O)[O-] | C9H9NO2
reactant | isocyanoacetic acid ethyl ester | 6.11 mmol, 691 mg | C(C)OC(C[N+]#[C-])=O | C5H7NO2
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-methyl-3-phenyl-1H-pyrrole-2-carboxylic acid ethyl ester | 1.25 g, 89% | C(C)OC(=O)C=1NC=C(C1C1=CC=CC=C1)C | C14H15NO2
